US05234928
2-(4-Chlorophenylmethylamino)benzamide
In 400 ml of concentrated aqueous ammonia, 14.4 g of 1-(4-chlorophenylmethyl)-2H-3,1-benzoxazine-2,4(1H)-dione were heated to 100° C. and stirred for 3 hours. After cooling, the crystals were collected by filtration, washed with water and dried. They were recrystallized from ethanol to obtain 8.6 g of title compound. m.p. 138°-139° C.

reactant | 1-(4-chlorophenylmethyl)-2H-3,1-benzoxazine-2,4(1H)-dione | 14.4 g | ClC1=CC=C(C=C1)CN1C(OC(C2=C1C=CC=C2)=O)=O | C15H10ClNO3
reactant | ammonia | 400 ml | N | H3N
product | 2-(4-Chlorophenylmethylamino)benzamide | 8.6 g | ClC1=CC=C(C=C1)CNC1=C(C(=O)N)C=CC=C1 | C14H13ClN2O
